US06794382B2
1.4.2. 2-Chloro-4-methylbenzimidazole
2-Hydroxy-4-methylbenzimidazole (5.92 g, 40 mmol) and 40 mL of phosphoryl chloride are introduced into a 250 mL two-necked flask under an argon atmosphere, with magnetic stirring. The mixture is refluxed for 20 hours and the phosphoryl chloride is evaporated off under vacuum. The solid obtained is taken up in water (250 mL), neutralized to pH=8 with 28% aqueous ammonia and the aqueous phase is extracted with ethyl acetate (3×250 mL). After the usual work-up, the title product is obtained in a yield of 93% (6.23 g). 1H NMR (300 MHz, δ ppm) DMSO D6: 2.47 (s, 3H), 7.01 (d, 1H), 7.11 (t, 1H), 7.32 (d, 1H).

reactant | 2-Hydroxy-4-methylbenzimidazole | 40 mmol, 5.92 g | OC=1NC2=C(N1)C=CC=C2C | C8H8N2O
reactant | phosphoryl chloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | water | 250 mL | O | H2O
product | 2-Chloro-4-methylbenzimidazole | yield of 93% | ClC=1NC2=C(N1)C=CC=C2C | C8H7ClN2
